US05344929
(R)-3,4-Dihydro-4-ethylamino-2-(3-methoxypropyl)-2H-thieno[3,2-e]-1,2-thiazine-6-sulfonamide-1,1-dioxide
A 500-mL flask equipped with a reflux condenser was charged with (S)-3,4-dihydro-4-hydroxy-2-(3-methoxypropyl)-2H-thieno[3,2-e]-1,2-thiazine-6-sulfonamide-1,1-dioxide (28.5 g, 0.08 mol), acetonitrile (285 mL), and trimethylorthoacetate (23.4 mL, 0.184 mol). The mixture was heated at reflux (85° C.) for 16 hours, after which TLC analysis indicated complete reaction. After cooling for 1 hour, the solvent was removed by rotary evaporation. The residual oil was dissolved in anhydrous tetrahydrofuran (150 mL) and the solution was transferred to a 1-L, 3-necked flask equipped with a thermometer, an addition funnel, and a nitrogen inlet. The solution was cooled to 4° C. under nitrogen and triethylamine (24.5 mL, 0.176 mol) and p-toluenesulfonyl chloride (30.5 g, 0.160 tool) were added sequentially. A precipitate was observed within 5 minutes. The mixture was stirred at 4 to 7° C. for 2 hours, after which TLC analysis indicated complete tosylation. 70% Aqueous ethylamine (260 mL, 2.80 mol) was added dropwise over 30 minutes while the temperature was kept below 15° C. The mixture was stirred at ambient temperature for 18.5 hours before the solution was cooled to 5° C. and concentrated hydrochloric acid (280 mL) was added dropwise over 1 hour while the temperature was kept below 30° C. The solution was extracted with diethyl ether (2×250 mL) and the combined extracts were back extracted with 1M aqueous hydrochloric acid (200 mL). The pH of the aqueous phase was adjusted to 8 using solid sodium bicarbonate causing a white solid to precipitate. After chilling for 2 hour, the solid was collected by filtration and washed with water. TLC analysis of the filtrate indicated that some product was present, so the filtrate was extracted with ethyl acetate. This and additional ethyl acetate was used to dissolve the filter cake and the solution was dried over magnesium sulfate, filtered, stripped of solvent, and dried to a constant weight of 24.0 grams (78%) of crude (R)-3,4-dihydro-4-ethylamino-2-(3-methoxypropyl)-2H-thieno[3,2-e]-1,2-thiazine-6-sulfonamide-1,1-dioxide. Material recrystallized from 2-propanol had the following characteristics: mp 125°-127° C.; IR (KBr) 3313, 1355, 1336, 1174, 1156, 1080, 1015, 914, 904, 652 cm-1 ; 1H NMR (DMSO-d6) δ8.01 (s, 2H), 7.65 (s, 1H), 4.10-4.03 (m, 1H), 3.87-3.76 (m, 2H), 3.47-3.33 (m, 4H), 3.22 (s, 3H) partially overlapped by 3.20-3.09 (m, 1H), 2.59-2.49 (m, 2H), 1.86-1.74 (m, 2H), 1.01 (t 3H, J=7 Hz); [α]25312.6 -26.1° (c=1, pH 3 citric acid buffer); Analysis for C12H21N3O5S3 : Calcd: C, 37.58; H, 5.48; N, 10.96. Found: C, 37.66; H, 5.56; N, 10.98.

reactant | (S)-3,4-dihydro-4-hydroxy-2-(3-methoxypropyl)-2H-thieno[3,2-e]-1,2-thiazine-6-sulfonamide-1,1-dioxide | 0.08 mol, 28.5 g | O[C@@H]1CN(S(C2=C1C=C(S2)S(=O)(=O)N)(=O)=O)CCCOC | C10H16N2O6S3
reactant | trimethylorthoacetate | 0.184 mol, 23.4 mL | CC(C([O-])([O-])[O-])(C)C
reactant | triethylamine | 0.176 mol, 24.5 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 30.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ethylamine | 2.80 mol, 260 mL | C(C)N | C2H7N
reactant | hydrochloric acid | 280 mL | Cl | ClH
solvent | acetonitrile | 285 mL | C(C)#N | C2H3N
product | (R)-3,4-Dihydro-4-ethylamino-2-(3-methoxypropyl)-2H-thieno[3,2-e]-1,2-thiazine-6-sulfonamide-1,1-dioxide | C(C)N[C@H]1CN(S(C2=C1C=C(S2)S(=O)(=O)N)(=O)=O)CCCOC | C12H21N3O5S3
